US08420690B2
e) 1,1-dimethylethyl {1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-methyl-2-phenylpropyl}carbamate
To a solution of 1,1-dimethylethyl [1-(hydroxymethyl)-2-methyl-2-phenylpropyl]carbamate (775 mg, 2.8 mmol), triphenylphosphine (915 mg, 3.5 mmol) and phthalimide (499 mg, 3.4 mmol) in THF (15 mL) at 25° C. was added diethyl azodicarboxylate (0.54 mL, 3.4 mmol). After stirring at RT for 1 h, MeOH was added (5 mL) and the reaction solution was adsorbed onto silica then purified via column chromatography(1% MeOH in DCM) affording the title compound (723 mg, 64%) as a white solid: LCMS (ES) m/z 409 (M+H)+.

reactant | 1,1-dimethylethyl [1-(hydroxymethyl)-2-methyl-2-phenylpropyl]carbamate | 2.8 mmol, 775 mg | OCC(C(C)(C1=CC=CC=C1)C)NC(OC(C)(C)C)=O | C16H25NO3
reactant | triphenylphosphine | 3.5 mmol, 915 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 3.4 mmol, 499 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 3.4 mmol, 0.54 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 1,1-dimethylethyl {1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-methyl-2-phenylpropyl}carbamate | 723 mg, 64% | O=C1N(C(C2=CC=CC=C12)=O)CC(C(C)(C1=CC=CC=C1)C)NC(OC(C)(C)C)=O | C24H28N2O4
